US09227978B2
2-Amino-5-chloro-4-cyclopropylphenol
To a mixture of 2-amino-5-chloro-4-iodophenol (500 mg, 1.9 mmol), PdCl2(dppf) (136 mg, 0.19 mmol) in THF (10 mL) under argon at RT, cyclopropylmagnesium bromide (16 mL, 11.4 mmol, 0.7 M in THF) was added and the mixture was stirred at reflux for 15 h. The mixture was allowed to cool to RT, and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography on silica gel (10-20% ethyl acetate/hexanes) to afford the desired product (220 mg, 63% yield) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ: 9.27 (s, 1H), 6.62 (s, 1H), 6.22 (s, 1H), 4.53 (s, 2H), 1.89-1.93 (m, 1H), 0.83-0.87 (m, 2H), 0.46-0.49 (m, 2H).

reactant | 2-amino-5-chloro-4-iodophenol | 1.9 mmol, 500 mg | NC1=C(C=C(C(=C1)I)Cl)O | C6H5ClINO
reactant | cyclopropylmagnesium bromide | 11.4 mmol, 0.7 M, 16 mL | C1(CC1)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.19 mmol, 136 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Amino-5-chloro-4-cyclopropylphenol | 220 mg, 63% yield | NC1=C(C=C(C(=C1)C1CC1)Cl)O | C9H10ClNO
